US05641788
According to the same manner as that described in Example 1, 2-bromomethyl-4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxyquinoline was reacted with diethylamine to give 2-(N,N-diethylaminomethyl)-4-(3,4-dimethoxyphenyl) -3-isovaleryl-6,7-dimethoxyquinoline. This compound was recrystallized from ethyl acetate-hexane to give colorless prisms. mp. 153°-154° C.

reactant | 2-bromomethyl-4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxyquinoline | BrCC1=NC2=CC(=C(C=C2C(=C1C(CC(C)C)=O)C1=CC(=C(C=C1)OC)OC)OC)OC | C25H28BrNO5
reactant | diethylamine | C(C)NCC | C4H11N
product | 2-(N,N-diethylaminomethyl)-4-(3,4-dimethoxyphenyl) -3-isovaleryl-6,7-dimethoxyquinoline | C(C)N(CC)CC1=NC2=CC(=C(C=C2C(=C1C(CC(C)C)=O)C1=CC(=C(C=C1)OC)OC)OC)OC | C29H38N2O5
